US06500863B1
1-(azetidin-1-yl)sulfonyl-2,6-dichloro-3-nitrobenzene
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (1.0 g, 3.44 mmol), azetidine hydrochloride (320 mg, 3.44 mmol) and triethylamine(1.44mL, 10.32 mmol) were reacted to form the desired product (510 mg, 48%). 1H NMR (MeOD-d4): δ 7.94 (d, 1H), 7.79 (d, 1H), 4.16 (t, 4H), 2.29 (m, 2H).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 3.44 mmol, 1.0 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | azetidine hydrochloride | 3.44 mmol, 320 mg | Cl.N1CCC1
reactant | triethylamine | 10.32 mmol, 1.44mL | C(C)N(CC)CC | C6H15N
product | 1-(azetidin-1-yl)sulfonyl-2,6-dichloro-3-nitrobenzene | 510 mg, 48% | N1(CCC1)S(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C9H8Cl2N2O4S
